US06838567B1
(S)-3-Chloro-2-pyrrolidinone (10.1 mg; optical purity 93.3% ee) was dissolved in 4 ml of 6.0 M hydrochloric acid and the solution was stirred at 50° C. for 1 hour and then further at 80° C. for 3 hours. Without particularly isolating (S)-4-amino-2-chlorobutyric acid in the reaction solution, the reaction solution was neutralized with a 30% sodium hydroxide aqueous solution until a pH of 11, 110.8 mg of barium hydroxide octahydrate was added, and the solution was stirred with heating at 100° C. for 23 minutes. Without particularly isolating (R)-azetidine-2-carboxylic acid in the reaction solution, 6 N hydrochloric acid was added to the reaction solution to adjust pH to 9.1. Then, 71.4 mg of sodium carbonate and 49.3 mg of di-tert-butyl dicarbonate were added, and the mixture was stirred at room temperature for 14 hours. This was adjusted to pH 1. 8 by addition of 6 N hydrochloric acid and then extracted three times with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and then dried over sodium sulfate, and the solvent was distilled off to give 14.1 mg of (R)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid (yield 82.0%, optical purity 52.8% ee).

reactant | (S)-3-Chloro-2-pyrrolidinone | 10.1 mg | Cl[C@@H]1C(NCC1)=O | C4H6ClNO
reactant | (S)-4-amino-2-chlorobutyric acid | NCC[C@@H](C(=O)O)Cl | C4H8ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | barium hydroxide octahydrate | 110.8 mg, pH of 11 | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | (R)-azetidine-2-carboxylic acid | N1[C@H](CC1)C(=O)O | C4H7NO2
reactant | sodium carbonate | 71.4 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 49.3 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | hydrochloric acid | 6.0 M, 4 ml | Cl | ClH
solvent | hydrochloric acid | 6 N | Cl | ClH
solvent | hydrochloric acid | 6 N | Cl | ClH
product | (R)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid | 14.1 mg, yield 82.0% | C(C)(C)(C)OC(=O)N1[C@H](CC1)C(=O)O | C9H15NO4
